US04845110
(a) 3-(3-Methoxycarbonylphenyl)propanoic acid
A solution of 3-methoxycarbonyl-cinnamic acid (15.0 g) and sodium carbonate (7.7 g) in water (200 ml) was hydrogenated at 50 psi over 10% palladium on charcoal (0.5 g) for 1.5 hours. The catalyst was filtered off and the filtrate was acidified with 2M hydrochloric acid to precipitate the product as a white solid, m.p. 81° C.

reactant | 3-methoxycarbonyl-cinnamic acid | 15.0 g | COC(=O)C=1C=C(C=CC(=O)O)C=CC1 | C11H10O4
reactant | sodium carbonate | 7.7 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 200 ml | O | H2O
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
product | 3-(3-Methoxycarbonylphenyl)propanoic acid | COC(=O)C=1C=C(C=CC1)CCC(=O)O | C11H12O4
